US05597836
4-[2-[4-[4-(trifluoromethyl)phenoxy]phenyl]ethoxy]pyridine (Compound 1A)
To a suspension of 0.2 g of 60% NaH (as an oil dispersion, 0.005 m) in 5 mL of DMF was added 1.41 g (0.005 m) of 2-[4-[4-(trifluoromethyl)phenoxy]phenyl]ethanol. The mixture was stirred at room temperature for 30 minutes, until hydrogen evolution ceased. To the mixture was then added 0.79 g (0.005 m) of 4-(methylsulfonyl)pyridine, and the mixture was stirred overnight am room temperature. Excess DMF was then removed in vacuo. The resulting material was diluted with water, and the product was extracted into CH2Cl2. The CH2Cl2 layer was separated and filtered through phase separating paper, then concentrated. The residue was adsorbed onto silica gel and chromatographed, eluting with CH2Cl2 →30% EtOAc/CH2Cl2. The resulting material was rechromatographed over fine-particle silica gel, eluting with CH2Cl2 →50% EtOAc/CH2Cl2. Yield 0.5 g.

reactant | NaH | 0.2 g | [H-].[Na+]
reactant | 2-[4-[4-(trifluoromethyl)phenoxy]phenyl]ethanol | 1.41 g | FC(C1=CC=C(OC2=CC=C(C=C2)CCO)C=C1)(F)F | C15H13F3O2
reactant | hydrogen | [H][H] | H2
reactant | 4-(methylsulfonyl)pyridine | 0.79 g | CS(=O)(=O)C1=CC=NC=C1 | C6H7NO2S
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-[2-[4-[4-(trifluoromethyl)phenoxy]phenyl]ethoxy]pyridine | FC(C1=CC=C(OC2=CC=C(C=C2)CCOC2=CC=NC=C2)C=C1)(F)F | C20H16F3NO2
